US06033826
Synthesis of p-cresol/1,4-dihydroxymethybenzene resin
p-Cresol in an amount of 38.4 g (0.36 mole) and 35.0 g (0.25 mole) of xylene-α,α-diol were dissolved with heating, followed by addition of 0.15 g of methanesulfonic acid at 90° to 100° C. The reaction was carried out at 90° to 100° C. for 2 hours with stirring. After cooling, 100 ml of acetone was poured into the reaction solution. After dissolving, the reaction solution was poured into 2000 ml of water and stirred. After allowed to stand, a supernatant was removed by decantation. The residue was dissolved in 100 ml of acetone, followed by pouring into 2000 ml of water and stirring. After allowed to stand, a supernatant was removed by decantation. The residue was dried under reduced pressure to give 65.0 g of pale yellowish powdered crystals of p-cresol/1,4-dihydroxymethylbenzene polycondensate. Mw was about 6,700 and the degree of dispersion was 3.50 (GPC method, polystyrene standard).

reactant | p-Cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | xylene-α,α-diol | 0.25 mole, 35.0 g | C=1(C(=CC=CC1)C)C(O)O | C8H10O2
reactant | methanesulfonic acid | 0.15 g | CS(=O)(=O)O | CH4O3S
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 2000 ml | O | H2O
product | p-cresol 1,4-dihydroxymethybenzene | 65.0 g | C1=CC(=CC=C1O)C.OCC1=CC=C(C=C1)CO | InChI=1S/C8H10O2.C7H8O/c9-5-7-1-2-8(6-10)4-3-7;1-6-2-4-7(8)5-3-6/h1-4,9-10H,5-6H2;2-5,8H,1H3
